US09388173B2
Step 4: 6-bromo-1-(pyrrolidin-3-yl)-1H-benzo[d]imidazole
To a solution of tert-butyl 3-(6-bromo-1H-benzo[d]imidazol-1-yl)pyrrolidine-1-carboxylate (crude) in DCM (9 mL) was added TFA (3 mL). After stirring for 2 h, the solution was concentrated to give the desired crude product which was used directly in the next step.

reactant | tert-butyl 3-(6-bromo-1H-benzo[d]imidazol-1-yl)pyrrolidine-1-carboxylate | BrC=1C=CC2=C(N(C=N2)C2CN(CC2)C(=O)OC(C)(C)C)C1 | C16H20BrN3O2
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 9 mL | C(Cl)Cl | CH2Cl2
product | 6-bromo-1-(pyrrolidin-3-yl)-1H-benzo[d]imidazole | BrC=1C=CC2=C(N(C=N2)C2CNCC2)C1 | C11H12BrN3
